US04812575
The crude reaction product 2(2-hydroxy-5-acetylphenyl)2H-benzotriazole (2H5A) is then o-acetylated with an acetic anhydride/pyridine mixture, and after reflux, 2(2-acetoxy-5-acetylphenyl)2H-benzotriazole (2A5A) was produced. The 2(2-acetoxy-5-acetylphenyl)2H-benzotriazole (2A5A) is a key intermediate in the process, and in purified form served as the starting material for the two carbinols.

reactant | 2(2-hydroxy-5-acetylphenyl)2H-benzotriazole | OC1=C(C=C(C=C1)C(C)=O)N1N=C2C(=N1)C=CC=C2 | C14H11N3O2
reactant | acetic anhydride pyridine | C(C)(=O)OC(C)=O.N1=CC=CC=C1
product | 2(2-acetoxy-5-acetylphenyl)2H-benzotriazole | C(C)(=O)OC1=C(C=C(C=C1)C(C)=O)N1N=C2C(=N1)C=CC=C2 | C16H13N3O3
